US03968131
A mixture of 25 parts of 3-methyl-1,5-pentanediol, 12 parts of N-methylpyrrolidone, 2.6 parts of phenol and 3.3 parts of potassium carbonate is mixed with 8 parts of 1-amino-4-hydroxy-2-chloroanthraquinone at 130°C and stirred for 3 hours at 130°C and 2 hours at 140°C under nitrogen. After working up, 6 parts of 1-amino-2-(5'-hydroxy-3'-methylpentoxy)-4-hydroxyanthraquinone melting at from 134° to 135°C are obtained.

reactant | 3-methyl-1,5-pentanediol | CC(CCO)CCO | C6H14O2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1-amino-4-hydroxy-2-chloroanthraquinone | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)O)Cl | C14H8ClNO3
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | 1-amino-2-(5'-hydroxy-3'-methylpentoxy)-4-hydroxyanthraquinone | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)O)OCCC(CCO)C | C20H21NO5
